US05338739
3-[1-(3-Pyridinylmethyl)-2-pyrrolidinyl]phenol
2-(3-Methoxyphenyl)-1-(3-pyridinylmethyl)pyrrolidine and 48% hydrobromic acid (35 ml) were warmed to 100° C. for 7 hrs. The reaction mixture was cooled to ambient temperature, neutralized with saturated sodium bicarbonate solution, and extracted with dichloromethane (2 times). The combined organic extracts were dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated. The residue was purified by flash column chromatography (silica gel, 1:1 ethyl acetate/dichloromethane). The appropriate fractions were collected and concentrated to give 2.2 g (63%) of product, mp 129°-131° C.

reactant | 2-(3-Methoxyphenyl)-1-(3-pyridinylmethyl)pyrrolidine | COC=1C=C(C=CC1)C1N(CCC1)CC=1C=NC=CC1 | C17H20N2O
reactant | hydrobromic acid | 35 ml | Br | BrH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-[1-(3-Pyridinylmethyl)-2-pyrrolidinyl]phenol | 2.2 g, 63% | N1=CC(=CC=C1)CN1C(CCC1)C=1C=C(C=CC1)O | C16H18N2O
